US06548495B2
{2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-methyl-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester (Example J15) and 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example K3) according to the general procedure M. Obtained as a light yellow solid (250 mg).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-(2-cyano-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)C#N)=O | C13H14N2O3
product | {2-[3-(2-Cyano-pyridin-4-yl)-3-oxo-propionylamino]-5-methyl-4-trifluoromethyl-phenyl}-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C22H21F3N4O4
